US04092313
A 36.3 g quantity of n-hexadecanol is dissolved in 200 ml of absolute ether, 3.3 g of metal sodium is added to the solution and the mixture is refluxed until the sodium has been completely dissolved. Subsequently 8.5 g of 2,4-dichloro-5-fluoropyrimidine is added to the solution, and the mixture is refluxed for 3 hours. The resulting reaction mixture is washed with a small amount of water, and the ethereal layer is concentrated to separate out crystals, which are recrystallized from ethanol to give 18.6 g of white crystalline 2,4-di(n-hexadecyloxy)-5-fluoropyrimidine in a yield of 63.1%, m.p. 62°-63° C.

reactant | n-hexadecanol | C(CCCCCCCCCCCCCCC)O | C16H34O
reactant | sodium | [Na] | Na
reactant | 2,4-dichloro-5-fluoropyrimidine | 8.5 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2,4-di(n-hexadecyloxy)-5-fluoropyrimidine | 18.6 g, yield of 63.1% | C(CCCCCCCCCCCCCCC)OC1=NC=C(C(=N1)OCCCCCCCCCCCCCCCC)F | C36H67FN2O2
